US04547501
(a) Preparation of 2,3-dihydroxy-6,7-difluoroquinoxaline
A mixture consisting of 11.3 g. (0.0784 mole) of 4,5-difluoro-o-phenylenediamine (U.S. Pat. No. 4,264,600) and 80 ml. (0.589 mole) of diethyl oxalate was refluxed for a period of four hours to give a thick precipitate of product. The spent reaction mixture was then cooled to room temperature (~20° C.) overnight, filtered and the solid product so obtained was thereafter washed several times with diethyl ether and air-dried to constant weight to ultimately afford 15.5 g of pure 2,3-dihydroxy-6,7-difluoroquinoxaline, m.p. >310° C.. Mass Spectrum: m/e, 198 (P+).

reactant | 4,5-difluoro-o-phenylenediamine | 0.0784 mole | FC1=CC(=C(C=C1F)N)N | C6H6F2N2
reactant | diethyl oxalate | 0.589 mole | C(C(=O)OCC)(=O)OCC | C6H10O4
product | 2,3-dihydroxy-6,7-difluoroquinoxaline | OC1=NC2=CC(=C(C=C2N=C1O)F)F | C8H4F2N2O2
